US04835175
2.33 g of 4-formyl-7-hydroxyindole-2-carboxylic acid ethyl ester is combined with 1.8 ml of benzyl bromide, 1 g of potassium carbonate, and 100 ml of acetone and heated under reflux for 4 hours. The reaction mixture is then evaporated to dryness, combined with water, and extracted with ethyl acetate. The organic phase is washed twice with saturated sodium bicarbonate solution, dried over sodium sulfate, concentrated, and recrystallized from ethyl acetate/hexane, thus obtaining 1.8 g of 7-benzyloxy-4-formylindole-2-carboxylic acid ethyl ester, mp 131°-132° C.

reactant | 4-formyl-7-hydroxyindole-2-carboxylic acid ethyl ester | 2.33 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C=O)O | C12H11NO4
reactant | benzyl bromide | 1.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 7-benzyloxy-4-formylindole-2-carboxylic acid ethyl ester | 1.8 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C=O)OCC1=CC=CC=C1 | C19H17NO4
